US07132444B2
To a cooled (0–5° C.) solution of chlorosulfonic acid (22.4 ml), 4-[2-(3-Ethyl-4-methyl-2-carbonyl pyrrolidineamido)ethyl]benzene (15 gm) was added in small portions over a period of 1 to 2 hrs. Further it was stirred for 30 minutes at this temperature and then temperature was gradually raised to 30 to 35° C. and stirred for 5 hrs. The reaction mixture was quenched into ice-water, and stirred for 1 hr and filtered to obtain the product 4-[2-(3-Ethyl-4-methyl-2-carbonyl pyrrolidineamido)ethyl]benzene sulfonyl chloride (18.8 g). To a cooled (0–5° C.) solution of concentrated ammonia (100 ml), 4[2-(3-Ethyl-4-methyl-2-carbonyl pyrrolidineamido)ethyl]benzene sulfonyl chloride (10 gm) was added in small portions over 30 minutes. The reaction mixture was stirred at this temperature for 30 minutes and then the reaction mixture was allowed to come to room temperature and then stirred for 5 hrs and filtered and dried to obtain 4-[2-(3-Ethyl-4-methyl-2-carbonyl pyrrolidineamido)ethyl]benzene sulfonamide (7.9 gm) having HPLC purity of about 83 to 85%.

reactant | chlorosulfonic acid | 22.4 ml | ClS(=O)(=O)O | ClHO3S
reactant | 4-[2-(3-Ethyl-4-methyl-2-carbonyl pyrrolidineamido)ethyl]benzene | 15 gm | C(C)C1C(N(CC1C)C(=O)NCCC1=CC=CC=C1)=C=O | C17H22N2O2
product | 4-[2-(3-Ethyl-4-methyl-2-carbonyl pyrrolidineamido)ethyl]benzene sulfonyl chloride | 18.8 g | C(C)C1C(N(CC1C)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)Cl)=C=O | C17H21ClN2O4S
